Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
aluminum hydroxide / calcium carbonate / magnesium hydroxide / 
ranitidine / simethicone
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old M with a PMH significant for HTN, HL,
depression, radiation proctitis who presented to an OSH with
cellulitis, and was then found to be in heart block. He is
transferred to ___ for EP evaluation for pacemaker. 

He initially presented to PCP ___ ___ for routine check up,
accompanied by his daughter. At the time, his daughter reported
that there had been a general decline in his functional capacity
and he was very limited by fatigue and pain.  Mr. ___ also
complained of persistent central lower thoracic pain. This had
been quite intense and constant over the past month. In addition
he reported a five-day history of swelling of the left lower
extremity. No chest pain shortness of breath or hemoptysis. He
was sent by his PCP to the ___. He was being managed
at ___ for LLE cellulitis and new afib evaluation when he
was noted to have 3rd degree AV block on 
telemetry. He was moved to the ICU on evening of ___, and
transferred to ___ for further EP evaluation. 

___ notable for:
BNP 1400

On arrival to ___, he verifies the above information. He
reports that he is still having back pain in his right lower
back, and his LLE is still slightly tender to palpation. He
denies any cheat pain, shortness of breath, fevers, chills,
dysuria. He has not noticed that he has gained any weight. He
denies orthopnea. 
 
Past Medical History:
Depressive disorder 
Hypercholesterolemia 
Peptic ulcer disease
Radiation proctitis
History of colonic polyps 
Ocular hypertension 
Visual loss, one eye 
Pseudophakia 
Cancer of prostate w/high recur risk (T3a ___ ___ or
PSA>20) 
Optic neuropathy 
 
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  
 
Physical Exam:
ADMISSION EXAM:
==============
VS: 98.2PO 132 / 86L Lying 74 20 92 nc
GENERAL: Oriented x3. Mood, affect appropriate, appears younger
than stated age.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with no elevated JVP  
CARDIAC: Irregularly irregular
LUNGS: Mild crackles at the bases bilaterally  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: Warmth and petechiae in LLE, mild 1+ pitting edema to
mid-calf bilaterally  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE EXAM:
===============
GENERAL: Oriented x3. Mood, affect appropriate, appears younger
than stated age.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP 7cm  
CARDIAC: Irregularly irregular
LUNGS: Lungs clear bilaterally.
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: Warmth and petechiae in LLE, trace edema around ankles
bilaterally
PULSES: Distal pulses palpable and symmetric  
 
Pertinent Results:
ADMISSION LABS:
==============
___ 07:15PM BLOOD WBC-4.0 RBC-3.27* Hgb-11.4* Hct-35.5* 
MCV-109* MCH-34.9* MCHC-32.1 RDW-12.8 RDWSD-51.6* Plt ___
___ 07:15PM BLOOD Glucose-139* UreaN-26* Creat-1.0 Na-141 
K-4.6 Cl-98 HCO3-33* AnGap-10
___ 07:15PM BLOOD Calcium-9.5 Phos-2.9 Mg-2.0
___ 06:55AM BLOOD VitB12-___ Folate-19
___ 07:15PM BLOOD TSH-2.0

PERTINENT STUDIES:
=================
CardiovascularECHO ___
The left atrial volume index is moderately increased. No atrial 
septal defect is seen by 2D or color Doppler. Left ventricular 
wall thicknesses and cavity size are normal. Regional left 
ventricular wall motion is normal. Overall left ventricular 
systolic function is low normal (Quantitative (3D) LVEF = 55 %). 
There is no ventricular septal defect. The right ventricular 
cavity is mildly dilated with borderline normal free wall 
function. The aortic root is mildly dilated at the sinus level. 
The ascending aorta is mildly dilated. There are three aortic 
valve leaflets. The aortic valve leaflets are moderately 
thickened. There is mild aortic valve stenosis (valve area 
1.4cm2). No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Mild (1+) mitral regurgitation is 
seen. The tricuspid valve leaflets are mildly thickened. There 
is mild pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

IMPRESSION: Low normal biventricular systolic function. 
Atrioventricular dissociation by pulse wave doppler across 
mitral valve (patient noted to be in complete heart block). 
Calcification of aortic root/valve leaflets with mild aortic 
stenosis. Mild pulmonary hypertension. Mildly dilated ascending 
aorta. 

DISCHARGE LABS:
================
___ 07:15PM BLOOD WBC-4.0 RBC-3.27* Hgb-11.4* Hct-35.5* 
MCV-109* MCH-34.9* MCHC-32.1 RDW-12.8 RDWSD-51.6* Plt ___
___ 07:15PM BLOOD Plt ___
___ 07:15PM BLOOD Glucose-139* UreaN-26* Creat-1.0 Na-141 
K-4.6 Cl-98 HCO3-33* AnGap-10
___ 07:15PM BLOOD Calcium-9.5 Phos-2.9 Mg-2.0
 
Brief Hospital Course:
Mr. ___ is a ___ year old M with a PMH significant for HTN, HL, 
depression, radiation proctitis who presented to an OSH with 
cellulitis, and was then found to be bradycaric with concern for 
complete heart block. He was transferred to ___ for EP 
evaluation for possible pacemaker.

#AV ___: The patient had episodes of bradycardia during 
sleep to a ventricular rate of ___, which demonstrated 2:1 AV 
node block. The patient was seen by the EP service, who analyzed 
his rhythms. Given that the patient had a prolonged PR interval 
on conducted beats, and that his block improved with exercise, 
this was thought not to be infranodal disease. Thus, the patient 
did not undergo a pacemaker implantation. Lyme titers were sent 
given this new AV nodal block, and this is pending at time of 
discharge. On review of the patient's prior ECGs and telemetry, 
it appears that he has had progressive lengthening of his PR 
interval over some time, and that this is most likely due to 
degenerative disease.

#New Onset Heart Failure with Preserved Ejection Fraction: The 
patient presented with ___ swelling, and an elevated BNP. He had 
an echo showing an EF of 60-65%, and was diuresed effectively 
with Lasix IV 20mg daily at OSH. He was diuresed with 20mg IV 
Lasix while in the hospital as well until he appeared euvolemic 
on exam. It is possible that this new heart failure is related 
to his intermittent bradycardia. The patient was started on 
maintenance diuretics on discharge with 10mg PO Lasix daily with 
close follow up with his PCP and with ___ cardiologist. 

CHRONIC ISSUES:
===============
#Acute on Chronic Thoracic Pain
#T11 Fracture: No evidence of spinal cord compression. ___ 
evaluated the patient at OSH and recommended home with ___ 
services and home physical therapy. The patient's pain was well 
controlled with Tylenol.

#HLD: Continued on home simvastatin

#History of Prostate Cancer: Not actively on treatments at this 
time

TRANSITIONAL ISSUES:
====================
[] Patient with a new diagnosis of heart failure with preserved 
ejection fraction: would benefit from heart failure diet 
education
[] Discharged on Lasix 10mg PO daily which is a new med: Please 
monitor Creatinine and weights. 
[] consider lidocaine patch for patient's back pain
[] Ensure resolution of fungal infection of toes with 
clotrimazole cream
[] Patient has possible aspiration on CXR. He was not frankly 
aspirating while inpatient. Continue to monitor. 

Pending studies:
[] Pt with a macrocytic anemia and was discharged with a B12 and 
Folate pending
[] Lyme serologies 

Discharge Labs:
[] Discharge Hgb: 11.3
[] Discharge Cr: 0.9
[] Discharge weight: 59.5Kg 131.17lbs
[] Discharge diuretic regimen: Lasix 10mg PO daily

New medications:
[] Clotrimazole Cream 1 Appl TP BID to toes 
[] Furosemide 10 mg PO/NG DAILY 

#CODE STATUS: Full (confirmed)
#CONTACT/HCP: ___ (daughter) Cell phone: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Latanoprost 0.005% Ophth. Soln. 1 DROP RIGHT EYE QHS 
2. Simvastatin 10 mg PO QPM 

 
Discharge Medications:
1.  Clotrimazole Cream 1 Appl TP BID to toes 
RX *clotrimazole 1 % Please apply to rash on toes Twice daily 
Refills:*0 
2.  Furosemide 10 mg PO DAILY 
RX *furosemide 20 mg 0.5 (One half) tablet(s) by mouth Daily 
Disp #*30 Tablet Refills:*0 
3.  Latanoprost 0.005% Ophth. Soln. 1 DROP RIGHT EYE QHS  
4.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
- Atrioventricular node ___
- Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were having slow heart rates 
- There was a concern that these slow heart rates were causing 
your symptoms of fatigue

WHAT HAPPENED WHILE I WAS HERE?
- Your heart rates were monitored while you were here
- You were seen by the heart rhythm specialists 
(electrophysiologists)
- They did not feel that this rhythm was causing your symptoms, 
and did not think this was a dangerous rhythm
- It was also found that you had some extra fluid in your lungs 
because your heart was not pumping the blood forward as well. 
This is called heart failure. 
- You were given some medications through your IV to help you 
urinate off this extra fluid
- You will be discharged with a medication to help keep the 
fluid off of your lungs

WHAT SHOULD I DO WHEN I LEAVE?
- Please attend all of your follow up appointments as scheduled 
for you
- Please take all of your medications as prescribed
- Please weigh yourself every morning. Please call your primary 
care doctor if your weight goes up more than 3 pounds in one day 
or 5 pounds in one week. 
- Please decrease your salt intake to minimize the extra fluid 
in your body.  
- If you're still having back pain, you can purchase lidocaine 
patches at your local pharmacy for pain control. 

It was a pleasure to care for you during your hospital stay!

- Your ___ care team
 
Followup Instructions:
___